US07153854B2
To a solution of (2E)-3-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]-2-propen-1-ol (30 mg) in N,N-dimethylformamide (1 mL) was added 60% sodium hydride in oil (3.8 mg) in an ice-water bath under nitrogen atmosphere. After 20 minutes, to the mixture was added methyl iodide (18.5 mg) at the temperature. After 15 minutes, the reaction mixture was stirred at ambient temperature for 5 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water three times and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by p-TLC (hexane-ethyl acetate=10-1) to give 7-chloro-4-(4-fluorophenyl)-2-isopropyl-3-[(1E)-3-methoxy-1-propenyl]pyrrolo[1,2-b]pyridazine as a brown oil (3.5 mg, 10.2%).

reactant | (2E)-3-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]-2-propen-1-ol | 30 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)/C=C/CO)C(C)C | C19H18ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 18.5 mg | CI | CH3I
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 7-chloro-4-(4-fluorophenyl)-2-isopropyl-3-[(1E)-3-methoxy-1-propenyl]pyrrolo[1,2-b]pyridazine | 3.5 mg, 10.2% | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)\C=C\COC)C(C)C | C20H20ClFN2O
